US07713994B2
′[4-(pyridin-2-ylmethoxy)phenyl]amine
Using the procedure described for the preparation of 4-Morpholin-4-ylmethyl-phenylamine, 1.16 g (100%) of white crystals is obtained from 1.5 g (5.55 mmol) of ′2-[(4-nitrophenoxy)methyl]pyridine; mp 50-51° C. MS (ESI) m/z 201.1 (M+1)+.

reactant | 4-Morpholin-4-ylmethyl-phenylamine | N1(CCOCC1)CC1=CC=C(C=C1)N | C11H16N2O
reactant | 2-[(4-nitrophenoxy)methyl]pyridine | [N+](=O)([O-])C1=CC=C(OCC2=NC=CC=C2)C=C1 | C12H10N2O3
product | [4-(pyridin-2-ylmethoxy)phenyl]amine | 1.16 g, 100% | N1=C(C=CC=C1)COC1=CC=C(C=C1)N | C12H12N2O
